US08440658B2
To a solution of (S)-3,3-dimethylbutan-2-yl(3-(4-fluorophenyl)-3-hydroxyhex-5-enyl)carba-mate (2.2 g, 6.27 mmol) in dry THF (25 mL) was added NaH (752 mg, 18.80 mmol) at 0° C. under N2, and the mixture was stirred at rt overnight. The reaction was quenched with water, and the mixture was extracted with EtOAc. The combined organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to afford the crude product, which was purified by chromatography to give two isomers of 6-allyl-3-((2S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one.

reactant | (S)-3,3-dimethylbutan-2-yl(3-(4-fluorophenyl)-3-hydroxyhex-5-enyl)carba-mate | 6.27 mmol, 2.2 g | CC([C@H](C)N(C([O-])=O)CCC(CC=C)(O)C1=CC=C(C=C1)F)(C)C
reactant | NaH | 18.80 mmol, 752 mg | [H-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-allyl-3-((2S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | C(C=C)C1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C19H26FNO2
